US09422281B2
A 100-mL round bottomed flask equipped with a magnetic stir bar was charged with (R)-1-aminopropan-2-ol (1.0 g, 13.31 mmol), dichloromethane (25 mL), benzaldehyde (1.349 mL, 13.31 mmol), and magnesium sulfate (4.81 g, 39.9 mmol), and the mixture stirred at rt for 24 h. The slurry was filtered through a medium frit Buchner funnel and the solids were washed with additional dichloromethane. The filtrate was concentrated to a colorless syrup. The crude imine (2.171 g, 13.3 mmol) was dissolved in methanol (30 mL) and treated with sodium borohydride (0.503 g, 13.30 mmol) in two portions (0.200 g then 0.303 g 5 min later) at rt. The solution was stirred at rt for 4 h and then concentrated under reduced pressure. The residue was dissolved in 1 N aqueous hydrogen chloride solution (40 mL). This aqueous solution was washed with ethyl acetate (2×40 mL). The aqueous layer was made basic by the addition of 10 N aqueous sodium hydroxide solution (8 mL) and extracted with dichloromethane. The dichloromethane layer was washed with 5% aqueous sodium chloride solution (20 mL) and concentrated under reduced pressure to afford (R)-1-(benzylamino)propan-2-ol (1.61 g, 73%) as a colorless syrup. MS (ESI, pos. ion) m/z 166 [M+1]+.

reactant | (R)-1-aminopropan-2-ol | 13.31 mmol, 1.0 g | NC[C@@H](C)O | C3H9NO
reactant | benzaldehyde | 13.31 mmol, 1.349 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | magnesium sulfate | 39.9 mmol, 4.81 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 13.30 mmol, 0.503 g | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (R)-1-(benzylamino)propan-2-ol | 1.61 g, 73% | C(C1=CC=CC=C1)NC[C@@H](C)O | C10H15NO
